US08802688B2
Step 2. benzyl 1-tert-butyl-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate
Benzyl 10-((dimethylamino)methylene)-9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate (59.2 g, 167 mmol) was dissolved in ethanol (835 mL). To the solution was added acetic acid (20 mL, 345 mmol) and tert-butylhydrazine hydrochloride (29.1 g, 234 mmol). The reaction was heated to reflux for 1 hour. The reaction was cooled to room temperature and concentrated to an orange oil. Purification by flash column chromatography (20-40% ethyl acetate/heptanes) afforded the title compound (50 g, 79%) as a pale yellow solid. +ESI (M+H) 380.5; 1H NMR (400 MHz, CDCl3, δ): 7.26-7.40 (m, 5 H), 7.17 (s, 1 H), 6.66 (d, J=9.95 Hz, 1 H), 5.77 (d, J=10.15 Hz, 1 H), 5.12 (s, 2 H), 3.38-3.64 (m, 4 H), 2.58 (s, 2 H), 1.60 (s, 12 H), 1.50 (br. s., 1 H).

reactant | Benzyl 10-((dimethylamino)methylene)-9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate | 167 mmol, 59.2 g | CN(C)C=C1C(C=CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C1)=O | C21H26N2O3
reactant | acetic acid | 345 mmol, 20 mL | C(C)(=O)O | C2H4O2
reactant | tert-butylhydrazine hydrochloride | 234 mmol, 29.1 g | Cl.C(C)(C)(C)NN
solvent | ethanol | 835 mL | C(C)O | C2H6O
product | benzyl 1-tert-butyl-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 50 g, 79% | C(C)(C)(C)N1N=CC=2CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)C=CC12 | C23H29N3O2
